US08686005B2
3-[4-(2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-oxo-5,7-dihydro-1H-1,3,6-triaza-s-indacen-6-yl)-piperidin-1-yl]-propionitrile:
To a solution of the TFA salt of 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (40 mg, 0.061 mmol) in MeOH (2.4 mL) was added DIEA (600 μL, 3.4 mmol) at 0° C. under N2 resulting a mixture which was stirred under N2 at 0° C. for 20 min and followed by addition of acrylonitrile (197 μL, 3.0 mmol) via a syringe. The reaction mixture was stirred under N2 at 0° C. for 1 h and at the room temperature for 1 h and then evaporated. The residue was subjected to HPLC purification to afford the title compound in TFA salt form. 1H NMR (DMSO-d6) δ 1.99-2.13 (4H), 2.19 (s, 3H, CH3), 2.22 (s, 3H, CH3), 3.12 (m, 2H), 3.22 (m, 2H), 3.47 (m, 2H), 3.51-3.75 (4H), 4.01 (m, 2H), 4.13 (m, 1H), 4.34 (m, 1H), 4.47 (s, 2H), 6.22 (d, J=7 Hz, 1H), 6.84 (d, J=7 Hz, 1H), 6.94 (d, J=7 Hz, 1H), 6.96 (s, 1H), 7.36 (d, J=7 Hz, 1H), 7.59 (br s, 1H), 7.86 (br s, 1H), 11.13 (br s, 1H, NH), 11.23 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 596.5 (MH+).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 0.061 mmol, 40 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | DIEA | 3.4 mmol, 600 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acrylonitrile | 3.0 mmol, 197 μL | C(C=C)#N | C3H3N
solvent | MeOH | 2.4 mL | CO | CH4O
product | 3-[4-(2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-oxo-5,7-dihydro-1H-1,3,6-triaza-s-indacen-6-yl)-piperidin-1-yl]-propionitrile | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(CC4C=C3N2)C2CCN(CC2)CCC#N)=O)O)C=CC(=C1)C | C33H37N7O4
